US07572817B2
(d) 2-[(6-Aminopyridin-3-yl)methyl]-5-(1,1′-biphenyl-3-yl)-3-mercaptopentanoic acid
tert-Butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]pentanoate (0.669 g, 1.00 mmol) was dissolved in triethylsilane (0.75 mL) and trifluoroacetic acid (6.0 mL). The solution was heated to 60° C. for 3 h and then concentrated. Purification of the residue by reversed-phase HPLC (C-8 column, linear gradient 40%→100% of MeCN in 5% aqueous MeCN containing 0.15% trifluoroacetic acid) gave the title diastereomeric compound as the trifluoroacetic salt (0.342 g, 68%) after freeze-drying.

reactant | tert-Butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]pentanoate | 1.00 mmol, 0.669 g | C1(=CC(=CC=C1)CCC(C(C(=O)OC(C)(C)C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)SCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C40H48N2O5S
solvent | triethylsilane | 0.75 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 6.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[(6-Aminopyridin-3-yl)methyl]-5-(1,1′-biphenyl-3-yl)-3-mercaptopentanoic acid | 0.342 g, 68% | NC1=CC=C(C=N1)CC(C(=O)O)C(CCC=1C=C(C=CC1)C1=CC=CC=C1)S | C23H24N2O2S
